US04719203
Starting from 3-(2-acetylaminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid, the acetyl radical is completely eliminated by heating to 100° C. for 70 hours in 6N hydrochloric acid. The diphosphonic acid is purified by chromatographing on Amberlite IR-120 (H+ form) to give 3-(2-aminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid sesquihydrate in the form of a cis, trans mixture (ratio as in the starting material). Yield 23% of theory; m.p. 163° C., foaming up; Mrel =0.31.

reactant | 3-(2-acetylaminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid | C(C)(=O)NC1C(CCCC1)CCC(P(O)(=O)O)(P(O)(=O)O)O | C11H23NO8P2
solvent | hydrochloric acid | 6N | Cl | ClH
product | 3-(2-aminocyclohexyl)-1-hydroxypropane-1,1-diphosphonic acid sesquihydrate | Yield 23% | O.NC1C(CCCC1)CCC(P(O)(=O)O)(P(O)(=O)O)O.O.O.NC1C(CCCC1)CCC(P(O)(=O)O)(P(O)(=O)O)O | InChI=1S/2C9H21NO7P2.3H2O/c2*10-8-4-2-1-3-7(8)5-6-9(11,18(12,13)14)19(15,16)17;;;/h2*7-8,11H,1-6,10H2,(H2,12,13,14)(H2,15,16,17);3*1H2
